US06093732
N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(hydroxymethyl)-3-quinolinecarboxamide from Example No. 141 (500 mg), collidine (0.21 mL), and DMAP (28.3 mg) in 25 mL DMF is cooled to 0° C. Methanesulfonyl chloride (0.12 mL) is added dropwise. The reaction is stirred at room temperature and monitored by mass spectroscopy for complete conversion to N-(4-chlorobenzyl)-6-(chloromethyl)-8-fluoro-4-hydroxy-3-quinolinecarboxamide (approx. 2-3 hrs and reaction mixture turns yellow). Morpholine (0.24 mL) is added. The reaction is monitored by mass spectroscopy for complete conversion. The product is precipitated by addition of 25 mL H2O. The white solid is filtered and collected to afford 459.3 mg (78%) of the title compound.

reactant | N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(hydroxymethyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CO)F)C=C1 | C18H14ClFN2O3
reactant | collidine | 0.21 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | Methanesulfonyl chloride | 0.12 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(4-chlorobenzyl)-6-(chloromethyl)-8-fluoro-4-hydroxy-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CCl)F)C=C1 | C18H13Cl2FN2O2
reactant | Morpholine | 0.24 mL | N1CCOCC1 | C4H9NO
catalyst | DMAP | 28.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 459.3 mg, 78% | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CN2CCOCC2)F)C=C1 | C22H21ClFN3O3
